US07989438B2
Step 1: benzyl 1-benzylprolinate
Benzyl bromide (2 eq.) and K2CO3 (2.5 eq) were added to a solution (0.6 M) of DL-proline in DMF. The reaction was stirred at 100° C. overnight. The solution was allowed to cool to RT and then diluted with EtOAc and washed with 1 N HCl, brine, before being dried (Na2SO4), filtered and concentrated in vacuo. The crude material was purified by FC (PE/EtOAc 90:10) to afford the product (43%). (ES+) m/z 296 (M+H)+

reactant | Benzyl bromide | 2 eq. | C(C1=CC=CC=C1)Br | C7H7Br
reactant | K2CO3 | 2.5 eq | C(=O)([O-])[O-].[K+].[K+]
reactant | DL-proline | 0.6 M | N1C(C(=O)O)CCC1 | C5H9NO2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | benzyl 1-benzylprolinate | 43% | C(C1=CC=CC=C1)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1 | C19H21NO2
